US07851634B2
a) 6-Bromo-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one
The suspension of 9.87 g of 6-bromo-4H-benzo[1,4]oxazin-3-one [CAS 24036-52-0], 9.40 g of 1-chloro-3-methoxypropane, potassium fluoride on alumina (Fluka 60244), 0.144 g of potassium iodide in 500 ml of acetonitrile is stirred at 100° C. over 40 hours. The reaction mixture is cooled to room temperature and filtered through Hyflo, and the filtrate is concentrated by evaporation to dryness. The title compound is obtained as a slightly yellowish solid from the residue by crystallization from ethyl acetate. Rf=0.43 (1:1 EtOAc-heptane). Rt=4.27 (gradient I). m.p. 193-195° C.

reactant | 6-bromo-4H-benzo[1,4]oxazin-3-one | 9.87 g | BrC=1C=CC2=C(NC(CO2)=O)C1 | C8H6BrNO2
reactant | 1-chloro-3-methoxypropane | 9.40 g | ClCCCOC | C4H9ClO
reactant | potassium fluoride on alumina | [F-].[K+]
reactant | potassium iodide | 0.144 g | [I-].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 6-Bromo-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | BrC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C12H14BrNO3
